Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:10].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])/[C:7]([H:8])=[C:9]/[C:11]([H:12])([H:13])[H:14]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])/[C:7]([H:8])=[C:9](\[H:10])[C:11]([H:12])([H:13])[H:14],-4.807076888359999
[H:1][C:2]([O:3][C:4]=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[H:11]>>[H:1][C:2]([O:3][C:4]#[C:5][H:6])[C:8]([H:9])([H:10])[H:11].[H:7],2.71238133446
[H:3].[O:1]=[C:2]=[C:4]([H:5])[O:6][C:7]([H:8])[C:9]([H:10])([H:11])[H:12]>>[O:1]=[C:2]([H:3])[C:4]([H:5])[O:6][C:7]([H:8])[C:9]([H:10])([H:11])[H:12],-3.23920508719
[C:1]=[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[C:8]#[C:9][H:10]>>[C:1]=[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[C:8]#[C:9].[H:10],5.98798613939
[H:1][C:2][O:3][C@:4]([H:5])([C:6][O:7][H:8])[C:9]([H:10])([H:11])[H:12]>>[C:4](\[H:5])(=[C:6]\[O:7][H:8])[C:9]([H:10])([H:11])[H:12].[H:1][C:2]=[O:3],-0.6069398812300001
[H:1][C:2][O:3][C:4]([H:5])=[C:6]([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:2][O:3][C:4]([H:5])=[C:6]([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[H:1],3.70021858809
[C:2][O:3][C:4]#[C:5][O:6][C:7]([H:8])[H:9].[H:1]>>[H:1][C:2][O:3][C:4]#[C:5][O:6][C:7]([H:8])[H:9],-3.57596580047
[C:4]([H:5])([H:6])=[C:7][O:8][C:9][C:10]([H:11])([H:12])[H:13].[H:1][C:2][H:3]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7][O:8][C:9][C:10]([H:11])([H:12])[H:13],-3.16668319045
[C:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][C:8]([H:9])[H:10]>>[C:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][C:8][H:9].[H:10],4.0768006737
[H:1][C:2]([H:3])=[C:4][C:6]([H:7])([H:8])[C:9][O:10][C:11]([H:12])([H:13])[H:14].[H:5]>>[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9][O:10][C:11]([H:12])([H:13])[H:14],-4.844677818919999
[C:10]([H:11])[H:12].[H:1][O:2][C:3][O:4][C:5]([H:6])([H:7])[C:8][H:9]>>[H:1][O:2][C:3][O:4][C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]([H:11])[H:12],-8.52758604032
[H:1][C:2][O:3][C:4]([H:5])[O:6][C:7]([H:8])([H:9])[H:10]>>[H:1][C:2][O:3][C:4][O:6][C:7]([H:8])([H:9])[H:10].[H:5],3.35455241809
[C:1].[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[H:14]>>[C:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[H:14],-7.146497782010001
[O:1][C:2][C:3].[O:4]>>[O:1][C:2]#[C:3][O:4],-4.83404955146
[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[H:8]>>[H:1][O:2][C:3][C:5]([H:6])([H:7])[H:8].[H:4],3.76407121489
[C:10]([H:11])([H:12])=[C:13]([H:14])[H:15].[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])[H:9]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15],-1.25755903661
[H:15].[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]([H:13])[H:14]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[C:12]([H:13])([H:14])[H:15],-2.00010883368
[C:4]([H:5])([O:6][H:7])[O:8][C:9]([H:10])([H:11])[H:12].[H:1][C:2]#[C:3]>>[H:1][C:2]#[C:3][C@@:4]([H:5])([O:6][H:7])[O:8][C:9]([H:10])([H:11])[H:12],-5.2306463738
[H:1][C:2]([H:3])[O:5][C:6]([H:7])([H:8])[C:9][C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:4]>>[H:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])([H:8])[C:9][C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-4.1962443935300024
[H:1][C:2]=[C:3]([H:4])/[C:5]([H:6])=[C:7](\[H:8])[O:9][H:10]>>[C:3]([H:4])/[C:5]([H:6])=[C:7](\[H:8])[O:9][H:10].[H:1][C:2],7.96838749029
[H:1][C:2]([H:3])[O:4][C:5]([O:6][C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[H:13].[H:1][C:2]([H:3])[O:4][C:5]([O:6][C:7]([H:8])[H:9])=[C:10]([H:11])[H:12],2.30748383926
[H:1][C:2]#[C:3].[O:4][C:5]#[C:6][H:7]>>[H:1][C:2]#[C:3][O:4][C:5]#[C:6][H:7],-3.18607814932
[C:12]([H:13])([H:14])[H:15].[H:1][C:2]([O:3][C:4][C:5]([H:6])([H:7])[H:8])=[C:9]([H:10])[H:11]>>[H:1][C:2]([O:3][C:4][C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-1.47293755458
[H:1][O:2][O:3]/[C:4]([H:5])=[C:6](\[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:10]([H:11])([H:12])[H:13].[H:1][O:2][O:3][C:4]([H:5])=[C:6]=[C:7]([H:8])[H:9],1.73722314282
[C:10]([H:11])([H:12])=[C:13]([H:14])[H:15].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])[H:9]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15],-1.24220703913
[C:1][O:2][C:3]#[C:4][C:5]#[C:6][H:7]>>[C:1][O:2][C:3]#[C:4].[C:5]#[C:6][H:7],5.8172052275300015
[H:1][C:2]#[C:3][C:5]([H:6])([C:7]#[C:8][H:9])[C:10]([H:11])([H:12])[H:13].[H:4]>>[H:1][C:2]=[C:3]([H:4])[C@@:5]([H:6])([C:7]#[C:8][H:9])[C:10]([H:11])([H:12])[H:13],-1.92079811062
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7][C:8]([H:9])([H:10])[O:11][H:12]>>[C:8]([H:9])([H:10])[O:11][H:12].[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7],3.45973827771
[C:8]([H:9])=[C:10]([H:11])[H:12].[H:1][O:2][C:3]#[C:4][C:5]([H:6])[H:7]>>[H:1][O:2][C:3]#[C:4][C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]([H:11])[H:12],-3.78102293784
[H:1][C:2]#[C:3][C:4]#[C:5][O:6][H:7]>>[C:4]#[C:5][O:6][H:7].[H:1][C:2]#[C:3],7.073888556260001
[O:1]=[C:2][C@:3]([H:4])([C:5][C:6]([H:7])([H:8])[H:9])[O:10][H:11]>>[O:10][H:11].[O:1]=[C:2]/[C:3]([H:4])=[C:5]/[C:6]([H:7])([H:8])[H:9],2.55495210285
